US05389666
1.1-Diphenyl-2-amino-hydroxyiminoethane
A mixture of diphenylacetonitrile (7.0 g), hydroxylamine hydrochloride (3.03 g), and sodium acetate (6.67 g) in 150 ml of 5:1 ethanol-water was refluxed for 4 h. The mixture was concentrated under reduced pressure. The residue was triturated with water, filtrated, and dried to give the title compound (2.5 g) having the following physical data.

reactant | diphenylacetonitrile | 7.0 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | hydroxylamine hydrochloride | 3.03 g | Cl.NO
reactant | sodium acetate | 6.67 g | C(C)(=O)[O-].[Na+]
solvent | ethanol water | 150 ml | C(C)O.O
product | 1.1-Diphenyl-2-amino-hydroxyiminoethane | 2.5 g | C1(=CC=CC=C1)C(C(N)=NO)C1=CC=CC=C1 | C14H14N2O
